US07338960B2
Ethyl [(4-{[1-(3-bromophenyl)pentyl]oxy}-2-methylphenyl)oxy]acetate
To a solution of 1-(3-bromophenyl)-1-pentanol (1.00 g, 4.11 mmol) in dry THF (40 mL) at 0° C. was added ethyl (4-hydroxy-2-methylphenoxy)acetate (865 mg, 4.11 mmol), PPh3 (1.30 g, 4.94 mmol) and ADDP (1.25 g, 4.94 mmol) and the reaction stirred for 30 minutes and then allowed to warm to rt overnight. The mixture was then reduced under vacuum and the residue partitioned between EtOAc and water and the layers separated. The organic layer was washed with water (2×) then brine, dried (Na2SO4) and reduced under vacuum to give a brown oil. Purification by Biotage™ chromatography (silica, 90 g cartridge) eluting with petroleum ether 40-60° C.:EtOAc (gradient 1:0 to 9:1) afforded the title compound as colourless oil (1.15 g).

reactant | 1-(3-bromophenyl)-1-pentanol | 4.11 mmol, 1.00 g | BrC=1C=C(C=CC1)C(CCCC)O | C11H15BrO
reactant | ethyl (4-hydroxy-2-methylphenoxy)acetate | 4.11 mmol, 865 mg | OC1=CC(=C(OCC(=O)OCC)C=C1)C | C11H14O4
reactant | PPh3 | 4.94 mmol, 1.30 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | ADDP | 4.94 mmol, 1.25 g | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | Ethyl [(4-{[1-(3-bromophenyl)pentyl]oxy}-2-methylphenyl)oxy]acetate | 1.15 g | BrC=1C=C(C=CC1)C(CCCC)OC1=CC(=C(C=C1)OCC(=O)OCC)C | C22H27BrO4
